US09062016B2
Next, bis(3-chloro-2-hydroxypropyl)sulfide described above was dripped into a reaction vessel containing a mixed solvent consisting of 410 g of toluene and 260 g of 32% aqueous solution of sodium hydroxide with the temperature of the solution in the reaction vessel being maintained at 0 to 10° C. At the point of the completion, no scum-like insoluble matter was generated. The aqueous layer was removed, and the organic layer was washed with 180 g of water three times. After that, no scum-like insoluble matter was generated. After that, the solvent was distilled away, thereby obtaining 138 g (total yield: 95%) of bis(β-epoxypropyl)sulfide.

reactant | bis(3-chloro-2-hydroxypropyl)sulfide | ClCC(CSCC(CCl)O)O | C6H12Cl2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 410 g | C1(=CC=CC=C1)C | C7H8
product | bis(β-epoxypropyl)sulfide | 138 g, yield: 95% | O1C(CSCC2CO2)C1 | C6H10O2S
